US08138347B2
b) 6-bromo-4-(4-pyridinyl)quinoline
A 1 L sealed tube charged with 6-bromo-4-iodoquinoline (11.58 g, 0.0347 mol), 4-pyridineboronic acid (5.97 g, 0.0486 mol), tetrakis(triphenyphosphine)palladium[0] (2.0 g, 0.00173 mol), 2 M aqueous potassium carbonate (152 mL) and 1,4-dioxane (152 mL) was stirred at 100° C. for 28 hrs. After cooling to rt, the organic layer was separated and the aqueous portion extracted with EtOAc (200 mL×3). The combined organic extracts were dried (Na2SO4), filtered and partially concentrated in vacuo. The resultant mixture was filtered to give the title compound (9.13 g) as a tan solid. The residual supernatant was concentrated to dryness and purified by silica gel chromatography (100% ethyl acetate to 2% methanol in ethyl acetate) to provide an additional 0.036 g of the title compound as a tan solid (combined 9.166 g, 92% yield).

reactant | 6-bromo-4-iodoquinoline | 0.0347 mol, 11.58 g | BrC=1C=C2C(=CC=NC2=CC1)I | C9H5BrIN
reactant | 4-pyridineboronic acid | 0.0486 mol, 5.97 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | potassium carbonate | 2 M, 152 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 152 mL | O1CCOCC1 | C4H8O2
product | 6-bromo-4-(4-pyridinyl)quinoline | 9.13 g | BrC=1C=C2C(=CC=NC2=CC1)C1=CC=NC=C1 | C14H9BrN2
